Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
azithromycin / Norvasc / Zestril
 
Attending: ___.
 
Chief Complaint:
facial hematoma after ___ reconstruction with cervicofacial 
flap
 
Major Surgical or Invasive Procedure:
none this admission; ___ cervicofacial flap reconstruction for 
___ defect
 
History of Present Illness:
___ male with atrial fibrillation, hypertension, and a 
recent ___ resection, which was ultimately reconstructed with a 
cervical facial flap by Dr. ___.  He did well immediately 
postop, but on his way home he started losing a lot more blood 
through his incision lines.  His daughter called in today out of 
concern and sent a photo which showed a developing hematoma, and 
he was asked to come to the emergency room for evaluation.  He 
denies headache, double vision, pain with eye movement, or 
significant pain.  He takes aspirin 81 mg daily.
 
Past Medical History:
hypertension, atrial fibrillation, hyperlipidemia
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Gen: NAD, lying in bed
HEENT: left face swollen with ecchymosis, left eye swollen shut, 
extraocular movements intact without pain or entraption, no 
diplopia, small opening medially by glabella and ___ drain 
extending out laterally
CV: 2+ radial artery pulses bilaterally, normal capillary refill
P: breathing comfortably on room air without cough or wheeze
 
Pertinent Results:
___ 09:25PM   WBC-16.9* RBC-3.62* HGB-11.1* HCT-32.8* 
MCV-91 MCH-30.7 MCHC-33.8 RDW-13.5 RDWSD-44.7
___ 09:25PM   PLT COUNT-257
___ 09:25PM   ___ PTT-28.1 ___
 
Brief Hospital Course:
Presented with hematoma following cervicofacial flap after ___ 
defect. Several sutures were removed medially by the glabella 
and hematoma was evacuated. ___ drain was placed. The flap 
was swollen and bruised but without bleeding or hematoma the 
next day. He will hold aspirin for 7 days. Will need better 
blood pressure control as his blood pressures were 130-160. He 
was discharged home on ___ with ___ drain in left cheek, 7 
days of duricef and will follow up in clinic. He will hold 
aspirin for 7 days.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  cefaDROXil 500 mg oral Q12H 
RX *cefadroxil 500 mg 1 capsule(s) by mouth every 12 hours Disp 
#*14 Capsule Refills:*0 
3.Home meds
TAKE YOUR HOME MEDICATIONS AS PRESCRIBED. YOU WERE UNSURE OF 
YOUR MEDICATIONS AND DOSAGES SO PLEASE REFER TO YOUR HOME 
MEDICATION LIST AND CONTINUE MEDICATIONS EXCEPT FOR ASPIRIN 
(HOLD FOR 1 WEEK).

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
L cheek post-surgical hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Take antibiotic as prescribed
- Take it easy, no vigorous activity or lifting or other 
activities that may increase blood pressure
- take home medications as prescribed except do not take aspirin 
for 1 week
- you may take Tylenol for pain, avoid ibuprofen or motrin or 
advil for a week to minimize bleeding risk
- you may use eye drops like artificial tears if you have any 
dry eye symptoms

Return to the ED if you have worse bleeding or recurrence of 
swelling and concern for hematoma. If you have fevers, chills, 
purulent drainage, return to the ED. 
- You will likely have bruising and swelling. Make sure to keep 
head elevated at all times, including at night if you can sleep 
on pillows to keep head slightly elevated above level of heart

 
Followup Instructions:
___